US04269873
THF, 20 ml is placed under N2, treated with 1.54 ml diisopropylamine and cooled to -78° C. A solution of n-butyl lithium (1.97 M in hexane; 5.6 ml) is added dropwise over 5 min. The reaction mixture is stirred at -78° C. for 10 min. and then treated with 8-oxo-2,2,6-trimethyl-3-oxa-1-azabicyclo[4.2.0]octane (0.0079 mmole) ml THF added dropwise over 5 min. After another 10 min. hexamethylphosphoramide 1.97 ml is added. The mixture is stirred another 10 min., then treated with 2 ml of isopropyl iodide. The reaction mixture is stirred at -78° C. for 15 min. and allowed to warm to 25° C. and stirred for 15 min. The reaction mixture is diluted with EtOAc, washed once with pH 7 phosphate buffer then dried and evaporated. The residue is chromatographed on silica gel using 25% EtOAc/C6H6 as eluant to give 8-oxo-2,2,6-trimethyl-7-isopropyl-3-oxa-1-azabicyclo[4.2.0]-octane.

reactant | diisopropylamine | 1.54 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.97 M, 5.6 ml | C(CCC)[Li]
reactant | 8-oxo-2,2,6-trimethyl-3-oxa-1-azabicyclo[4.2.0]octane | 0.0079 mmole | O=C1CC2(CCOC(N12)(C)C)C | C9H15NO2
reactant | isopropyl iodide | 2 ml | C(C)(C)I | C3H7I
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexamethylphosphoramide | 1.97 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | THF | C1CCOC1 | C4H8O
product | 8-oxo-2,2,6-trimethyl-7-isopropyl-3-oxa-1-azabicyclo[4.2.0]-octane | O=C1C(C2(CCOC(N12)(C)C)C)C(C)C | C12H21NO2
